US05025031
4-(2-Methyl-1H-imidazol-1-yl)phenol
To a 3-neck, 1-liter, round-bottom flask was added 2-methylimidazole (41.0 g, 0.50 mole), 4-bromoanisole (100 g, 0.53 mole) and potassium carbonate (96.0 g, 0.70 mole) in N-methyl-2-pyrrolidinone (300 ml). A small amount of cuprous chloride (2.5 g) was added. The stirred reaction mixture was heated at reflux temperature for 24 hr and then the N-methyl-2-pyrrolidinone and excess bromoanisole gently distilled. The black pot residue was partitioned between toluene and water and a black solid removed by filtration. The toluene layer was extracted with 48% hydrobromic acid (2×200 ml) and the hydrobromic acid solution was heated at reflux temperature 3 hr then stirred at room temperature overnight. The solution was then concentrated, diluted with water (500 ml) and made basic with sodium hydroxide and sodium bicarbonate solutions. The white solid which precipitated was collected and dried and a small amount recrystallized from methanol/isopropyl alcohol. The total yield was 24.88 g (28.6% yield), mp 205°-208° C.

reactant | 2-methylimidazole | 0.50 mole, 41.0 g | CC=1NC=CN1 | C4H6N2
reactant | 4-bromoanisole | 0.53 mole, 100 g | BrC1=CC=C(C=C1)OC | C7H7BrO
reactant | potassium carbonate | 0.70 mole, 96.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | N-methyl-2-pyrrolidinone | 300 ml | CN1C(CCC1)=O | C5H9NO
product | 4-(2-Methyl-1H-imidazol-1-yl)phenol | 28.6% yield | CC=1N(C=CN1)C1=CC=C(C=C1)O | C10H10N2O
